US04536517
2,2-dihydroxy-4'-(isopentyloxy)acetophenone
A 6.0 g. portion of hydroxy [p-(isopentyloxy)benzoyl]methanesulfonic acid, sodium salt was dissolved in a mixture of 100 ml. of 0.5N hydrochloric acid and 15 ml. of acetone. The solid was collected, giving the desired product, m.p. 80°-85° C.

reactant | hydroxy [p-(isopentyloxy)benzoyl]methanesulfonic acid | OC(S(=O)(=O)O)C(C1=CC=C(C=C1)OCCC(C)C)=O | C13H18O6S
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | 0.5N | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
product | 2,2-dihydroxy-4'-(isopentyloxy)acetophenone | OC(C(=O)C1=CC=C(C=C1)OCCC(C)C)O | C13H18O4
